US03983095
Following the general procedure of Example 2 equimolar proportions of isobutylene and maleic anhydride were copolymerized in a pressure reactor employing a peroxide catalyst to produce an isobutylene-maleic anhydride copolymer which was found to have a molecular weight of about 7,000,000. 9 Grams of said copolymer was dissolved in 41 grams of N-methylpyrrolidone and a solution of 0.09 gram of diethylene glycol in 4 grams of N-methylpyrrolidone was added thereto to produce a spinning dope containing 16.6% by weight of the copolymer and 1% by weight of said copolymer of the diethylene glycol cross-linking agent. when the solution was homogeneous, it was forced under a pressure of 70 pounds per square inch through a 15 hole spinnerette of 3 mil thickness into a coagulation bath of water at a temperature of 23°C. The resulting fiber was collected from the coagulation bath and placed in an oven at 105°C. for one hour to complete drying and solvent stripping from the fibers and to accomplish the cross-linking reaction. The fibers were then placed in a pressure vessel at room temperature and treated with gaseous ammonia at a pressure of 20 p.s.i. for 1 hour. The resulting fiber product was determined to have a gel capacity of 406 grams per gram in distilled water and 35 grams per gram in 0.27 N sodium chloride solution.

reactant | isobutylene | CC(C)=C | C4H8
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | isobutylene maleic anhydride | CC(C)=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H8/c5-3-1-2-4(6)7-3;1-4(2)3/h1-2H;1H2,2-3H3
